US04895862
Step (2) Preparation of 4-[(3,4-Dimethylphenyl)methyl]-3H-1,2,3,5-oxathiadiazole 2-Oxide
Thionyl chloride (17.7 mL, 0.24 mol) in methylene chloride (40 mL) was added dropwise to a solution of N'-hydroxy-2-(3,4-dimethylphenyl)ethanimidamide (10.8 g, 0.06 mol), methylene chloride (130 mL) and pyridine (9.8 mL, 0.12 mol) at 5° C. After 3 hours, the mixture was poured into water and the organic layer separated. The organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated in vacuo. Recrystallization from ethyl ether afforded the desired product (4.3 g, 32%) as an off-white solid, m.p. 127°-130° C.

reactant | Thionyl chloride | 0.24 mol, 17.7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N'-hydroxy-2-(3,4-dimethylphenyl)ethanimidamide | 0.06 mol, 10.8 g | ON=C(CC1=CC(=C(C=C1)C)C)N | C10H14N2O
reactant | pyridine | 0.12 mol, 9.8 mL | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 130 mL | C(Cl)Cl | CH2Cl2
product | 4-[(3,4-Dimethylphenyl)methyl]-3H-1,2,3,5-oxathiadiazole 2-Oxide | 4.3 g, 32% | CC=1C=C(C=CC1C)CC=1NS(ON1)=O | C10H12N2O2S
